US07473783B2
To a solution of 3-(2-bromo-phenyl)-3-oxo-propionitrile (1.8 g, 8.03 mmol) in absolute EtOH (25 mL) was added hydrazine hydrate (2.3 mL, 48.2 mmol). The reaction mixture was refluxed for 23 hours, then cooled and purified directly on silica gel with 0-10% MeOH in CH2Cl2 as eluent to provide 1.33 g (70% yield) of 5-amino-3-(2-bromophenyl)pyrazole as a sticky oil. 1H-NMR (d6-DMSO) δ: 11.7 (broad m, 1H, tautomers), 7.20-7.70 (broad m, 4H), 5.76 (broad m, 1H), 5.03 (broad s, 1H), 4.60 (broad s, 1H); HPLC/MS m/z: 238.0, 240.0 [MH]+.

reactant | 3-(2-bromo-phenyl)-3-oxo-propionitrile | 8.03 mmol, 1.8 g | BrC1=C(C=CC=C1)C(CC#N)=O | C9H6BrNO
reactant | hydrazine hydrate | 48.2 mmol, 2.3 mL | O.NN
solvent | EtOH | 25 mL | CCO | C2H6O
product | 5-amino-3-(2-bromophenyl)pyrazole | 1.33 g, 70% yield | NC1=CC(=NN1)C1=C(C=CC=C1)Br | C9H8BrN3
